US04435405
Sodium hydride (0.68 g. of a 50% w/w dispersion in mineral oil) was added to a solution of 3-phenylquinolin-2-thione (1.6 g.) in dimethylformamide (10 ml.) at ambient temperature. When all the hydrogen had evolved, trans-2-chlorocyclohexylamine hydrochloride (1.2 g.) was added and the reaction mixture was stirred at 60° for 20 hr. The reaction mixture was cooled to ambient temperature, diluted with water (100 ml.), and extracted with ethyl acetate (2×30 ml.). The ethyl acetate extract was washed with water (2×10 ml.) and then dried (MgSO4). The solvent was evaporated and the residue was chromatographed on basic alumina (100 g., Brockmann Grade III), eluted with increasing concentrations of chloroform in petroleum ether, followed by chloroform. The chloroform eluate was evaporated. The residue was dissolved in diethyl ether (100 ml.), and ethereal hydrogen chloride was added until precipitation was complete. The solvent was evaporated and the residue was crystallised from ethyl acetate to give 2-(trans-2-aminocyclohexylthio)-3-phenylquinoline hydrochloride, m.p. 223°- 5°.

reactant | Sodium hydride | [H-].[Na+]
reactant | 3-phenylquinolin-2-thione | 1.6 g | C1(=CC=CC=C1)C=1C(NC2=CC=CC=C2C1)=S | C15H11NS
reactant | hydrogen | [H][H] | H2
reactant | trans-2-chlorocyclohexylamine hydrochloride | 1.2 g | Cl.Cl[C@H]1[C@@H](CCCC1)N
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | water | 100 ml | O | H2O
product | 2-(trans-2-aminocyclohexylthio)-3-phenylquinoline hydrochloride | Cl.N[C@H]1[C@@H](CCCC1)SC1=NC2=CC=CC=C2C=C1C1=CC=CC=C1 | InChI=1S/C21H22N2S.ClH/c22-18-11-5-7-13-20(18)24-21-17(15-8-2-1-3-9-15)14-16-10-4-6-12-19(16)23-21;/h1-4,6,8-10,12,14,18,20H,5,7,11,13,22H2;1H/t18-,20-;/m1./s1
